US04762927
Synthesis of N-methyl-N-[2-(4-isopropylthiophenyl)-2-hydroxyethyl]amine
A solution of 842 mg of 4-isopropylthiophenyloxirane in 30 ml of methanol which contained 20% of methylamine was reacted at 70° C. in a sealed tube for 41 hours. After allowing the reaction mixture to cool down, the reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (eluent: a 10:1 mixture of chloroform and methanol) to give 428 mg of an oily substance.

reactant | 4-isopropylthiophenyloxirane | 842 mg | C(C)(C)SC1=CC=C(C=C1)C1OC1 | C11H14OS
reactant | methylamine | CN | CH5N
solvent | methanol | 30 ml | CO | CH4O
product | N-methyl-N-[2-(4-isopropylthiophenyl)-2-hydroxyethyl]amine | CNCC(O)C1=CC=C(C=C1)SC(C)C | C12H19NOS
